US08133889B2
Step A: 4-(1H-Pyrrol-2-ylmethyl)-morpholine
To a solution of morpholine (22 mmoles) in acetic acid (10 ml) there is added pyrrole (20 mmoles) dropwise at 0° C. Formaldehyde (37% aq., 20 mmoles) is then added dropwise. The reaction mixture is stirred for 2 hours at ambient temperature. The solution is cooled to 0° C. and is brought to alkaline pH (10-11) using 20% aqueous NaOH solution. After extraction with DCM, the organic phases are washed with water and with saturated aqueous NaCl solution, dried over sodium sulphate, filtered and evaporated to dryness to yield the title product in the form of a white solid which is used directly in the next Step.

reactant | morpholine | 22 mmoles | N1CCOCC1 | C4H9NO
reactant | pyrrole | 20 mmoles | N1C=CC=C1 | C4H5N
reactant | Formaldehyde | 20 mmoles | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-(1H-Pyrrol-2-ylmethyl)-morpholine | N1C(=CC=C1)CN1CCOCC1 | C9H14N2O
